US07902201B2
5-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid isopropylamide
As described for example 13 g, 5-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester (100 mg, 0.3 mmol) was converted, using isopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (81 mg, 75%) which was obtained as a light yellow solid. MS: m/e=415.1 [M+OAc]+.

reactant | 5-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | 0.3 mmol, 100 mg | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F | C16H12FN3O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 5-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid isopropylamide | 81 mg, 75% | C(C)(C)NC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F | C18H17FN4O3
